US08304380B2
1-(2,4-Dimethyl-1-(prop-1-en-2-yl)cyclohex-3-enyl)but-3-en-1-ol
In analogy to Example 3,1-(2,4-dimethyl-1-(prop-1-en-2-yl)cyclohex-3-enyl)but-3-en-1-ol (91% yield) was prepared starting from 2,4-dimethyl-1-(prop-1-en-2-yl)cyclohex-3-enecarbaldehyde and allylmagnesium chloride

reactant | 2,4-dimethyl-1-(prop-1-en-2-yl)cyclohex-3-enecarbaldehyde | CC1C(CCC(=C1)C)(C=O)C(=C)C | C12H18O
reactant | allylmagnesium chloride | C(C=C)[Mg]Cl
product | 1-(2,4-Dimethyl-1-(prop-1-en-2-yl)cyclohex-3-enyl)but-3-en-1-ol | CC1C(CCC(=C1)C)(C(=C)C)C(CC=C)O | C15H24O
